US09108970B2
A. tert-Butyl (1S,2R)-2-(5′-oxo-4′-(m-tolylamino)-5′,6′-dihydrospiro[cyclopropane-1,7′-pyrrolo[3,4-d]pyrimidine]-2′-ylamino)cyclohexylcarbamate
Ethylmagnesium bromide (0.069 mL, 0.208 mmol) was added at RT to a solution of methyl 2-((1R,2S)-2-(tert-butoxycarbonylamino)cyclohexylamino)-4-cyano-6-(m-tolylamino)pyrimidine-5-carboxylate (50 mg, 0.104 mmol) and tetraisopropylorthotitanate (0.091 mL, 0.312 mmol) in Et2O (5 mL). The reaction mixture was stirred at RT for 20 h and was subsequently diluted with EtOAc. The organic phase was washed with saturated aq NaHCO3, brine and water, was dried then concentrated to give a pink residue, which was purified by reverse phase preparative HPLC. The fractions were collected and concentrated to a residue, which was used in next step. [M+H] calc'd for C26H34N6O3, 479; found, 479.

reactant | Ethylmagnesium bromide | 0.208 mmol, 0.069 mL | C(C)[Mg]Br
reactant | methyl 2-((1R,2S)-2-(tert-butoxycarbonylamino)cyclohexylamino)-4-cyano-6-(m-tolylamino)pyrimidine-5-carboxylate | 0.104 mmol, 50 mg | C(C)(C)(C)OC(=O)N[C@@H]1[C@@H](CCCC1)NC1=NC(=C(C(=N1)C#N)C(=O)OC)NC=1C=C(C=CC1)C | C25H32N6O4
solvent | Et2O | 5 mL | CCOCC | C4H10O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-Butyl (1S,2R)-2-(5′-oxo-4′-(m-tolylamino)-5′,6′-dihydrospiro[cyclopropane-1,7′-pyrrolo[3,4-d]pyrimidine]-2′-ylamino)cyclohexylcarbamate | O=C1NC2(C=3N=C(N=C(C31)NC=3C=C(C=CC3)C)N[C@H]3[C@H](CCCC3)NC(OC(C)(C)C)=O)CC2 | C26H34N6O3
